US07718999B2
1) 3-Butoxymethylthiophene
To a stirred suspension of sodium hydride (NaH) (2.63 grams, 66 mmol, 60 percent dispersion in oil) in anhydrous N,N-dimethylformamide (DMF) (15 milliliters) was added dropwise a solution of 3-thiophenemethanol (5.105 grams, 43.8 mmol) in DMF (15 milliliters). The reaction mixture was stirred until the evolution of hydrogen ceased (about 0.5 hour). To the resulting suspension, 1-bromobutane (10.3 grams, 75 mmol) in DMF (15 milliliters) was added dropwise and then stirred at room temperature for 4 hours. The reaction mixture was poured into water (200 milliliters) and extracted with ether/hexane (v/v, 100 milliliters/100 milliliters), and washed with brine. The resulting organic layer was dried over magnesium sulfate (MgSO4) and filtered. After removing the DMF solvent, a light yellow liquid was obtained, which was subjected to column chromatography on a silica gel using first hexane (about 400 milliliters to remove mineral oil), and then hexane/CH2Cl2(dichloromethane) (v/v=1/1; 1,200 milliliters). After evaporating the solvents, a colorless liquid was obtained.

reactant | sodium hydride | 66 mmol, 2.63 grams | [H-].[Na+]
reactant | 3-thiophenemethanol | 43.8 mmol, 5.105 grams | S1C=C(C=C1)CO | C5H6OS
reactant | hydrogen | [H][H] | H2
reactant | 1-bromobutane | 75 mmol, 10.3 grams | BrCCCC | C4H9Br
solvent | N,N-dimethylformamide | 15 milliliters | CN(C=O)C | C3H7NO
solvent | DMF | 15 milliliters | CN(C=O)C | C3H7NO
solvent | DMF | 15 milliliters | CN(C=O)C | C3H7NO
solvent | water | 200 milliliters | O | H2O
product | 3-Butoxymethylthiophene | C(CCC)OCC1=CSC=C1 | C9H14OS
